US05879894
Benzyloxycarbonylprop-1-enyl triphenylphosphorane bromide
A solution of benzyl 4-bromo-but-2-enate (430 mg, 1.68 mmol) and triphenylphosphine (661 mg, 2.52 mmol) in benzene (3 ml) was stirred at room temperature under nitrogen for 20 hours. The resulting white solid was collected through filtration and washed with benzene (3×2 ml), and dried at 100° C. under vacuum to give the title compound (510 mg, 59% yield). 1H NMR (CD3OD): δppm 4.60 (2H, m, slowly disappeared due to deuterium exchange), 5.13 (2H, s), 6.16 (1H, dd, J1=15.3 Hz, J2=1.1 Hz), 6.81 (1H, m), 7.33 (5H, m), 7.78 (12 H, m), 7.90 (3H, m). 13C NMR (CD3OD): δppm 67.6 (t), 68.1 (t), 118.3 (s), 118.8 (s), 119.4 (s), 120.0 (s), 129.3 (d), 129.4 (d), 129.5 (d), 129.6 (d), 129.7 (d), 131.4 (d), 131.5 (d), 131.7 (d), 134.7 (d), 134.85 (d), 134.94 (d), 135.1 (d), 135.2 (d), 135.3 (d), 136.5 (d), 136.6 (d), 136.69 (d), 136.73 (d), 155.7 (s); 165.8 (s).

reactant | benzyl 4-bromo-but-2-enate | 1.68 mmol, 430 mg | BrCC=CC(=O)OCC1=CC=CC=C1 | C11H11BrO2
reactant | triphenylphosphine | 2.52 mmol, 661 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | Benzyloxycarbonylprop-1-enyl triphenylphosphorane bromide | 510 mg, 59% yield | [Br-].C(C1=CC=CC=C1)OC(=O)CC=CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H27O2P.BrH/c30-29(31-24-25-14-5-1-6-15-25)22-13-23-32(26-16-7-2-8-17-26,27-18-9-3-10-19-27)28-20-11-4-12-21-28;/h1-21,23,32H,22,24H2;1H/p-1
